datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)c1ccc([S:21][H:20])cc1.Cc1cccc(CO)[n:10]1>>CC(=O)c1ccc([S-:21])cc1.Cc1cccc(CO)[n+:10]1[H:20] 10=20;20,21=21",
"C[N:10]1CCCCCC1.N#CCC(=O)[O:21][H:20]>>C[N+:10]1([H:20])CCCCCC1.N#CCC(=O)[O-:21] 10=20;20,21=21",
"CC(C)(C)c1ccc(C2=C([O:21][H:20])C2=O)cc1.CC/C=C/C(=O)[O-:10]>>CC(C)(C)c1ccc(C2=C([O-:21])C2=O)cc1.CC/C=C/C(=O)[O:10][H:20] 10=20;20,21=21",
"C[N:10](C)CC#N.O=C([O-])c1ccccc1[NH2+:21][H:20]>>C[N+:10](C)(CC#N)[H:20].O=C([O-])c1ccccc1[NH2:21] 10=20;20,21=21",
"C[C@@H](N)[C@H](C)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[C@@H](N)[C@H](C)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)N(N=C(C)C)C1CC[N+:21](C)([H:20])CC1.NC(=O)C#CC#C/C=C/C(=O)[O-:10]>>CC(=O)N(N=C(C)C)C1CC[N:21](C)CC1.NC(=O)C#CC#C/C=C/C(=O)[O:10][H:20] 10=20;20,21=21",
"COc1ccc(N)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:21]2(Cc1ccccc1)[H:20].Cc1c[n:10]c(C)cc1N>>COc1ccc(N)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:21]2Cc1ccccc1.Cc1c[n+:10]([H:20])c(C)cc1N 10=20;20,21=21",
"CCCCCCCCCC[NH+:21](Cc1ccc(C)cc1)[H:20].CON=C(C)CC(C)(C)[NH:10]CC[NH2+]C(C)(C)CC(C)=NO>>CCCCCCCCCC[NH:21]Cc1ccc(C)cc1.CON=C(C)CC(C)(C)[NH+:10](CC[NH2+]C(C)(C)CC(C)=NO)[H:20] 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])=C1.C[NH+](c1ccccc1)C([O-])[O-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)=C1.C[NH+](c1ccccc1)C([O-])[O:10][H:20] 10=20;20,21=21",
"CC(=O)c1ccc(C(=O)[O-:10])s1.CC(C)CP(=O)(CC(C)C)[O:21][H:20]>>CC(=O)c1ccc(C(=O)[O:10][H:20])s1.CC(C)CP(=O)(CC(C)C)[O-:21] 10=20;20,21=21",
"Brc1c[n+](CCC[NH2:10])cc2ccccc12.O=C(CCC(=O)[O:21][H:20])c1ccc2ccccc2c1>>Brc1c[n+](CCC[NH2+:10][H:20])cc2ccccc12.O=C(CCC(=O)[O-:21])c1ccc2ccccc2c1 10=20;20,21=21",
"CNc1nnn[n-:10]1.Oc1ccccc1C[N+:21]1([H:20])CCOCC1>>CNc1nnn[n:10]1[H:20].Oc1ccccc1C[N:21]1CCOCC1 10=20;20,21=21",
"Clc1ccc([O:21][H:20])c(Cl)c1.O=[PH]([O-])C(NCc1cccnc1)c1ccccc1[O-:10]>>Clc1ccc([O-:21])c(Cl)c1.O=[PH]([O-])C(NCc1cccnc1)c1ccccc1[O:10][H:20] 10=20;20,21=21",
"CC[N+:21](CC)(CCCNC(=O)/C=N/[O-])[H:20].O=C1C=C(S(=O)(=O)[O-])c2[nH]ncc2/C1=N/[O-:10]>>CC[N:21](CC)CCCNC(=O)/C=N/[O-].O=C1C=C(S(=O)(=O)[O-])c2[nH]ncc2/C1=N/[O:10][H:20] 10=20;20,21=21",
"[H:20][NH2+:21]CC(=O)OCC.CC(=O)[CH-:10][P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10](C(=O)C)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)C[NH2:21] 10=20;20,21=21",
"C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(C#N)C=C2)[H:20])C=C1.[O-][N+]([O-])=C(CO)C[O-:10]>>C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(C#N)C=C2)C=C1.[O-][N+]([O-])=C(CO)C[O:10][H:20] 10=20;20,21=21",
"C1CN2C(=N1)N1CCN=C1N1CC[N+:21]([H:20])=C21.CC(C)C[NH2+]CC(=O)[O-:10]>>C1CN2C(=N1)N1CCN=C1N1CC[N:21]=C21.CC(C)C[NH2+]CC(=O)[O:10][H:20] 10=20;20,21=21",
"CCc1c([O:21][H:20])ccc(C(C)C)c1C.Cc1cc(/N=N/c2nc3ccccc3s2)c2cccnc2c1[O-:10]>>CCc1c([O-:21])ccc(C(C)C)c1C.Cc1cc(/N=N/c2nc3ccccc3s2)c2cccnc2c1[O:10][H:20] 10=20;20,21=21",
"CCOc1ccc(C(=O)[N-:10]C(=S)N(CC)CC)cc1.O=C([O-])C(Cc1c[nH]cn1)[NH2+:21][H:20]>>CCOc1ccc(C(=O)[N:10](C(=S)N(CC)CC)[H:20])cc1.O=C([O-])C(Cc1c[nH]cn1)[NH2:21] 10=20;20,21=21",
"CCCn1c[n+:21]([H:20])cn1.Cc1cc(-n2c(C)cc(C)[n:10]2)[nH]n1>>CCCn1c[n:21]cn1.Cc1cc(-n2c(C)cc(C)[n+:10]2[H:20])[nH]n1 10=20;20,21=21",
"N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.O=C([O-])C1CCCC[NH:10]1>>N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.O=C([O-])C1CCCC[NH+:10]1[H:20] 10=20;20,21=21",
"O=C(C(c1ccc(-c2ccccc2)cc1)C1(O)CCCC1)[O-:10].OCc1cc[n+:21]([H:20])cc1>>O=C(C(c1ccc(-c2ccccc2)cc1)C1(O)CCCC1)[O:10][H:20].OCc1cc[n:21]cc1 10=20;20,21=21",
"COc1c2cnn(C)c2nc[n+:21]1[H:20].C[N:10](C)CC(P(=O)([O-])[O-])P(=O)([O-])[O-]>>COc1c2cnn(C)c2nc[n:21]1.C[N+:10](C)(CC(P(=O)([O-])[O-])P(=O)([O-])[O-])[H:20] 10=20;20,21=21",
"O=C([O-])CCCCCC[NH2:10].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>O=C([O-])CCCCCC[NH2+:10][H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC(C)[NH:10]CC(O)COc1cccc2ccccc12.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C)[NH+:10](CC(O)COc1cccc2ccccc12)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCOCCn1c(N2CCC[N+:21](CCCCn3cccn3)([H:20])CC2)nc2ccccc21.Cn1cc([O-])[n:10]c1N>>CCOCCn1c(N2CCC[N:21](CCCCn3cccn3)CC2)nc2ccccc21.Cn1cc([O-])[n+:10]([H:20])c1N 10=20;20,21=21",
"COc1ccc([N+:21](C)(CO)[H:20])cc1.N#CC(C#N)=N[N-:10]c1ccccc1[N+](=O)[O-]>>COc1ccc([N:21](C)CO)cc1.N#CC(C#N)=N[N:10](c1ccccc1[N+](=O)[O-])[H:20] 10=20;20,21=21",
"COc1cccc(OC)c1-c1nc2ncccc2[n:21]1[H:20].[S-]c1ccnc[n:10]1>>COc1cccc(OC)c1-c1nc2ncccc2[n-:21]1.[S-]c1ccnc[n+:10]1[H:20] 10=20;20,21=21",
"CC1CCCC(C)(C)[NH:10]1.C[N+:21](C)(c1ccc(/C=C/c2nnnn2-c2ccccc2)cc1)[H:20]>>CC1CCCC(C)(C)[NH+:10]1[H:20].C[N:21](C)c1ccc(/C=C/c2nnnn2-c2ccccc2)cc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C(CNC(=O)C[NH2:10])NCC(=O)N1CCCC1C(=O)[O-]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(CNC(=O)C[NH2+:10][H:20])NCC(=O)N1CCCC1C(=O)[O-] 10=20;20,21=21",
"Cc1ccc([N:21]([N+](=O)[O-])[H:20])cc1.Cc1cccc(/C=N/[O-:10])n1>>Cc1ccc([N-:21][N+](=O)[O-])cc1.Cc1cccc(/C=N/[O:10][H:20])n1 10=20;20,21=21",
